US06627755B1
2-{[3-(2-Chloro-phenyl)-6-fluoro-4-oxo-3,4-dihydro-quinazolin-2-ylmethyl]-amino}-nicotinonitrile
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.439 g,1.45 mmol), 2-aminonicotinonitrile (0.150 g,1.26 mmol) and anhydrous sodium sulfate (2.1 g, 14.5 mmol) in acetic acid (10 mL) was stirred at ambient temperature for 24 hours. The mixture was now warmed to 80° C. for 24 hours. The reaction was cooled to ambient temperature and sodium triacetoxyborohydride (1.3 g, 6.13 mmol) was added portionwise. The reaction was stirred for 16 hours and then quenched by carefully pouring it into a mixture of saturated aqueous sodium bicarbonate (150 mL) and ethyl acetate (20 mL). This quenching solution was stirred 30 min. The phases were separated and the organic layer was washed with brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (50 g) with elution proceeding as follows: 20% ethyl acetate/hexane (350 mL), nil; 30% ethyl acetate/hexane (350 mL), unweighed 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-methanol; 40% ethyl acetate/hexane (400 mL), impure product. This partially purified product was flash chromatographed on silica gel (20 g) with elution proceeding as follows: 5% ethyl acetate/hexane (1000 mL), nil; 10% ethyl acetate/hexane (1000 mL), nil; 15% ethyl acetate/hexane (750 mL), nil; (500 mL), unweighed impurity; 20% ethyl acetate/hexane (1000 mL), nil; (1000 mL), unweighed impurity; 30% ethyl acetate/hexane (600 mL), 0.050 g (10%) of 2-{[3-(2-chloro-phenyl)-6-fluoro-4-oxo-3,4-dihydro-quinazolin-2-ylmethyl]-amino}-nicotinonitrile as a light tan solid which had: mp 145-150° C.; 1H NMR δ 8.16 (d, J=5 Hz, 1H), 7.93 (dd, J=3, 8 Hz, 1H), 7.84 (dd, J=5, 9 Hz, 1H), 7.71-7.63 (m, 2H), 7.56-7.51 (m, 3H), 7.40 (d, J=7 Hz, 1H), 6.85 (s, 1H), 6.62 (dd, J=5, 7 Hz, 1H), 4.23 (ABq, Δv1-3=74 Hz, J=19 Hz, 2H); APCI MS m/z=406.2 (P+1).

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 1.45 mmol, 0.439 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | 2-aminonicotinonitrile | 1.26 mmol, 0.150 g | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | sodium sulfate | 14.5 mmol, 2.1 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 6.13 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-{[3-(2-Chloro-phenyl)-6-fluoro-4-oxo-3,4-dihydro-quinazolin-2-ylmethyl]-amino}-nicotinonitrile | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNC1=C(C#N)C=CC=N1 | C21H13ClFN5O
